US09212190B2
Into a 50-mL round-bottom flask containing tert-butyl N-(4-[[(3R)-3-(2-hydroxypropyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]amino]cyclohexyl)carbamate (109 mg, 0.24 mmol, 1.00 equiv) in dichloromethane (10 mL) at 0° C. Then hydrochloric acid (12 M, 2.0 mL) was added and the resulting solution was stirred for 3 h at room temperature. The resulting mixture was concentrated under vacuum. The pH value of the solution was adjusted to 8 with saturated aqueous sodium carbonate and extracted with 2×40 mL of ethyl acetate. The organic layers were combined and dried over sodium sulfate and concentrated under vacuum to give the desired 1-[(3R)-12-[(4-amino cyclohexyl)amino]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]propan-2-ol (70 mg, crude) as a colorless oil.

reactant | tert-butyl N-(4-[[(3R)-3-(2-hydroxypropyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]amino]cyclohexyl)carbamate | 0.24 mmol, 109 mg, 1.00 equiv | OC(C[C@@H]1C=2C=3C(=NC=NC3SC2CC1)NC1CCC(CC1)NC(OC(C)(C)C)=O)C | C23H34N4O3S
reactant | hydrochloric acid | 12 M, 2.0 mL | Cl | ClH
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 1-[(3R)-12-[(4-amino cyclohexyl)amino]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]propan-2-ol | 70 mg | NC1CCC(CC1)NC1=NC=NC=2SC=3CC[C@@H](C3C12)CC(C)O | C18H26N4OS
